Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Kaletra
 
Attending: ___.
 
Chief Complaint:
Fever and Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ HIV (CD4 121, viral load of 25,176 in ___, recently 
restarted on HAART therapy 2 weeks ago, presents with headache, 
nausea and fever. Patient states since ___ he has noted a 
headache in the ___ his head. Yesterday he had a headache 
and a temperature to 101. He has had nausea throughout this but 
no vomiting. He's had no cough, chest pain or shortness of 
breath. Denies abdominal pain, diarrhea, urinary symptoms. He 
endorses photophobia. He currently feels weak and tired. He 
stopped taking his HAART medication on ___ because he felt 
unwell. Pt states currently his headache has resolved and he 
just feels nauseated and weak.  
.  
In the ED, initial vitals were 98.4 75 111/56 16 100%. Patient 
was non-toxic appearing, neurologically intact. Patient was 
strongly urged to undergo lumbar puncture, but patient adamately 
refused, as in past has had bad experience. He had no current 
headache, and was afebrile, with no signs of meningismus. CBC 
showed WBC count of 3.2K with unremarkable differential, 
platelet count of 133, which patient has been at before. Chem7 
was unremarkable. Lactate was 1.6. Chest X-ray showed no acute 
process. CT head showed no acute process. Urinalysis was not 
sent, as patient did not urinate while in the ED. No antibiotics 
were given, blood cultures x 2 were sent. Vitals upon transfer 
were 98 p59 110/62 rr18.  
On arrival to the floor, patient reports no fever, chills, 
headache, nausea or vomiting.  

 
Past Medical History:
1:HIV/AIDS (dz ___ 
2. Seizure d/o 
3. Panic d/o with agoraphobia 
4. EtOH abuse 
5. inguinal LAD s/p bx 95 with BMBx - lymphoma 
6. Depression 
7. HSV 
8. Oral hairy leukoplakia 
9. h/o thrush 
10. h/o PCP 
11. h/o chorioretinitis 
12. s/p appy 
13. B cataracts

 
Social History:
___
Family History:
Heart disease, DM, HTN, Notable for father having a pancreatic 
cyst at age ___ resolved.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 97.6 P 62 BP 110/56 R 20 Sat 98%RA  
GENERAL: alert, oriented x 3, comfortable, NAD, cooperative  
HEENT: PERRL, MMM with no lesions noted, no meningismus  
NECK: JVP not elevated, no cervical or supraclavicular LAD  
LUNGS: CTAB with no adventitious sounds  
HEART: RRR, normal S1 S2, no MRG  
ABDOMEN: Soft, NTND, NABS, no organomegaly  
EXTREMITIES: No c/c/e, WWP  
NEUROLOGIC: A+OX3, CN II-XII intact, ___ strength in all muscle 
groups, all extremities, sensation intact to light touch  
SKIN: no rashes  

DISCHARGE PHYSICAL EXAM:
VITALS: T 97.7 P 60 BP 100/48 R 20 Sat 97%RA  
GENERAL: Alert, comfortable, NAD, cooperative  
HEENT: NC/AT, right eye with slight ptosis
LUNGS: CTAB 
HEART: RRR, normal S1 S2, no MRG  
ABDOMEN: NABS, S/NT/ND, no organomegaly  
EXTREMITIES: No c/c/e, WWP  
NEUROLOGIC: A+OX3, CN II-XII intact  
SKIN: No rashes noted

 
Pertinent Results:
___ 09:01PM   LACTATE-1.6
___ 08:50PM   GLUCOSE-95 UREA N-11 CREAT-0.7 SODIUM-143 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-29 ANION GAP-12
___ 08:50PM   estGFR-Using this
___ 08:50PM   ALT(SGPT)-21 AST(SGOT)-29 ALK PHOS-75 TOT 
BILI-0.1
___ 08:50PM   LIPASE-11
___ 08:50PM   WBC-3.2* RBC-4.64 HGB-14.2 HCT-42.5 MCV-92 
MCH-30.6 MCHC-33.4 RDW-13.3
___ 08:50PM   NEUTS-42.5* LYMPHS-43.1* MONOS-6.3 EOS-6.6* 
BASOS-1.5
___ 08:50PM   PLT COUNT-133*
___ 07:40AM BLOOD WBC-2.9* RBC-4.47* Hgb-13.6* Hct-41.4 
MCV-93 MCH-30.4 MCHC-32.8 RDW-13.2 Plt ___
___ 08:50PM BLOOD WBC-3.2* RBC-4.64 Hgb-14.2 Hct-42.5 
MCV-92 MCH-30.6 MCHC-33.4 RDW-13.3 Plt ___
___ 07:40AM BLOOD Glucose-98 UreaN-13 Creat-0.7 Na-142 
K-4.4 Cl-107 HCO3-29 AnGap-10
___ 08:50PM BLOOD ALT-21 AST-29 AlkPhos-75 TotBili-0.1
___ 07:40AM BLOOD Calcium-8.2* Phos-3.4 Mg-1.7

CXR (___): IMPRESSION:  No acute cardiopulmonary process.

CT HEAD w/o CONTRAST (___): IMPRESSION: 1.  No acute 
intracranial process.  Please note that early infection/abscess 
cannot be excluded without intravenous contrast.  If clinically 
indicated, MRI brain with contrast should be performed. 2.  
Age-inappropriate atrophy. 

Urine Culture: No growth.

 
Brief Hospital Course:
___ yo male with AIDS (CD4 121) presents with fever and headache. 
 

# Fever: Afebrile following admission to the floor. No 
additional epsiodes of fever over the course of this 
hospitalization. Urine culture showed no growth, CXR was without 
evidence of pneumonia and the patient refused LP on admission. 
He was eventually amenable to LP, but based on clinical 
stability, it was determined that this test would be unnessary. 
 
# HIV: He was restarted on his outpatient HAART regimen, and was 
given close follow-up with ___ clinic at ___. 

# Thrombocytopenia: Likely due to HIV, currently around 
baseline. No interventions made.

# Seizure disorder: No active issues on this admission. Not 
currently on therapy. 

# Depression: No active issues on this admission. He was 
maintained on his home regimen of escitalopram.

# Anxiety: No active issues on this admission. He was maintained 
on his home regimen of clonazepam.  

TRANSITIONAL ISSUES:
- Final blood culture pending
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientwebOMR.
1. Adderall *NF* (amphetamine-dextroamphetamine) 30 mg Oral BID 
2. Atazanavir 300 mg PO DAILY 
3. Azithromycin 1200 mg PO 1X/WEEK (___) 
4. Clonazepam 1 mg PO QHS anxiety 
hold for rr<10, somnolence 
5. Dapsone 100 mg PO DAILY 
6. Desonide 0.05% Cream 1 Appl TP BID 
7. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
8. Escitalopram Oxalate 30 mg PO DAILY 
9. RiTONAvir 100 mg PO DAILY 

 
Discharge Medications:
1. Atazanavir 300 mg PO DAILY 
2. Azithromycin 1200 mg PO 1X/WEEK (___) 
3. Clonazepam 1 mg PO QHS anxiety 
hold for rr<10, somnolence 
4. Dapsone 100 mg PO DAILY 
5. Desonide 0.05% Cream 1 Appl TP BID 
6. RiTONAvir 100 mg PO DAILY 
7. Escitalopram Oxalate 30 mg PO DAILY 
8. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
9. Adderall *NF* (amphetamine-dextroamphetamine) 30 mg ORAL BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Headache, dehydration

Secondary diagnosis: Human Immunodeficiency virus, depression 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___ 
___.  You presented with a headache 
and fever, which resolved.  Your headache may have been a 
migraine, or it may have been due to a virus and dehydration.  
We gave you IV fluids and acetaminophen (Tylenol).  We also 
restarted your HIV medications.  It is very important that you 
take these medications without missing any doses, and that you 
see the Infectious Disease doctors in ___. 

If you develop a worsening headache, recurrent fevers, neck 
stiffness or any other concerning symptoms, please seek 
immediate medical attention in the emergency department.
 
Followup Instructions:
___